US07122694B2
(i) Synthesis of 5-(4-phenyl-1,3,2-dioxaborolan-2-yl)-1,3-benzodioxole
The 4-phenyl-1,3,2-dioxaborolane was first prepared by reaction of 236 mg phenyl-1,2-ethanediol (1.7 mmol) with borane dimethylsulfide adduct (0.15 ml, 1.5 mmol) in 2 ml of dioxane. A stock solution of the catalyst in dioxane was made by heating 250 mg PdCl2[dppf].CH2Cl2 with triethylamine (4.5 ml) at 80° C. for 20 h in 40 ml dioxane. To this solution was added 2.48 g (10 mmol) of 1-iodo-3,4-methylenedioxybenzene. 4.8 ml of this reaction solution was then placed in the reaction tube containing the borane ester. The mixture was heated for 20 h at 80° C. and then an aliquot was removed, dissolved in some ethyl acetate containing a little of the diol and shaken with 10% brine solution. After drying with MgSO4, the gc was measured. One major peak, of retention time 15.7 mins was found. This was shown by gc/ms to be the desired product.

reactant | 4-phenyl-1,3,2-dioxaborolane | C1(=CC=CC=C1)C1OBOC1 | C8H9BO2
reactant | phenyl-1,2-ethanediol | 1.7 mmol, 236 mg | C1(=CC=CC=C1)C(CO)O | C8H10O2
reactant | borane dimethylsulfide | 1.5 mmol, 0.15 ml | CSC.B
reactant | 1-iodo-3,4-methylenedioxybenzene | 10 mmol, 2.48 g | IC1=CC2=C(C=C1)OCO2 | C7H5IO2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(4-phenyl-1,3,2-dioxaborolan-2-yl)-1,3-benzodioxole | C1(=CC=CC=C1)C1OB(OC1)C1=CC2=C(OCO2)C=C1 | C15H13BO4
